* Bode plot template — RLOAD_VAL placeholder
.title PVDD Bode at RLOAD_VAL ohm

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../09_startup/design.cir

* Core regulation loop
XM_pass gate bvdd pvdd pass_device
XEA avbg vfb ea_out pvdd 0 ibias ea_en bvdd error_amp
XFB pvdd vfb_div 0 feedback_network
Cff_ext pvdd vfb_div 22p
XCOMP ea_out pvdd 0 compensation
XSU bvdd pvdd gate 0 avbg startup_done ea_en ea_out startup

* DC loop closure + AC injection
Rdc vfb_div vfb 100Meg
Cinj ac_src vfb 1
Vac ac_src 0 AC 1

* Supplies
Vbvdd bvdd 0 DC 7.0
Vavbg avbg 0 DC 1.226
Ibias ibias 0 DC 1u
Ven en 0 DC 7.0

* Load + output cap
Rload pvdd 0 RLOAD_VAL
Cout pvdd 0 1u

.nodeset v(pvdd)=5.0 v(ea_out)=2.5 v(gate)=5.6 v(vfb)=1.226 v(ea_en)=7.0
.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.ac dec 50 1 100meg

.control
run
set filetype = ascii
let beta = 0.2452
let T_mag = abs(v(pvdd)) * beta
let T_db = 20 * log10(T_mag + 1e-30)
let T_ph = 180/PI * cph(v(pvdd)) + 180
let npts = length(T_db)
let i = 0
dowhile i < npts
  if T_ph[i] > 180
    let T_ph[i] = T_ph[i] - 360
  end
  let i = i + 1
end
wrdata GAIN_FILE T_db
wrdata PHASE_FILE T_ph
echo "Bode done for RLOAD_VAL"
quit
.endc
.end
