* Plot 6: Bode — 10mA load (showcase)
.title Showcase Bode 10mA
.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {{0.1e-15*w*l}}
c1 r1 sub {{0.1e-15*w*l}}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt
.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../09_startup/design.cir

* Core regulation loop (no protection blocks for clean AC)
* EA ports: vref vfb vout_gate gnd ibias en bvdd (7 ports, FIX-10)
XM_pass gate bvdd pvdd pass_device
XEA avbg vfb ea_out 0 ibias ea_en bvdd error_amp
XFB pvdd vfb_div 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XSU bvdd pvdd gate 0 avbg startup_done ea_en ea_out startup
Cff pvdd vfb_div 22p
* Loop breaking: DC through Rdc, AC injection via Cinj
Rdc vfb_div vfb 100Meg
Cinj ac_src vfb 1
Vac ac_src 0 AC 1
Vbvdd bvdd 0 DC 7.0
Vavbg avbg 0 DC 1.226
Ibias ibias 0 DC 1u
Ven en 0 DC 7.0
Rload pvdd 0 500
Cout pvdd 0 1u
Cload_int pvdd 0 200p
.nodeset v(pvdd)=5.0 v(ea_out)=2.5 v(gate)=5.6 v(vfb)=1.226 v(ea_en)=7.0
.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ac dec 50 1 100meg
.control
run
set filetype = ascii
let beta = 0.2452
let T_mag = abs(v(pvdd)) * beta
let T_db = 20 * log10(T_mag + 1e-30)
let T_ph = 180/PI * cph(v(pvdd)) + 180
let npts = length(T_db)
let i = 0
dowhile i < npts
  if T_ph[i] > 180
    let T_ph[i] = T_ph[i] - 360
  end
  let i = i + 1
end
wrdata sc06_gain_10mA.dat T_db
wrdata sc06_phase_10mA.dat T_ph
quit
.endc
.end
